US07732463B2
Concentrated aqueous hydrochloric acid (150 mL) was added to a stirred solution of 1-tert-butoxycarbonyl-4-[2-(4-chloro-phenylsulfanyl)-phenyl]-piperidine-4-ol (12.13 g, 28.9 mmol) in acetic acid (450 mL). The solution was refluxed overnight, cooled to room temperature and then stirred on an ice bath. A saturated aqueous solution of sodium hydroxide (250 mL) was slowly added and the unclear solution was extracted with ethyl acetate (3×450 mL). The combined organic phases were washed with saturated aqueous sodium chloride (450 mL), dried over magnesium sulfate and the solvents evaporated off. The crude material (8.02 g) was dissolved in THF (195 mL) and di-tert-butyl dicarbonate (Boc2O, 6.96 g, 31.9 mmol) and triethyl amine (5 mL) were added. The mixture was stirred overnight and then quenched by addition of saturated aqueous ammonium chloride (200 mL). The organic phase was dried over magnesium sulfate, and the solvent was evaporated off. The crude material was purified by chromatography on silica gel (eluent: An increasing amount of ethyl acetate (0-20%) in heptane) to produce 4-[2-(4-chloro-phenylsulfanyl)-phenyl]-piperidine-1-carboxylic acid tert-butyl ester as a white solid (5.63 g). This material was dissolved in methylene chloride (130 mL). Hydrogen gas (3 bar) was bubbled through the solution using a Parr shaker apparatus and (1,5-cyclooctadiene)(pyridine)(tricyclohexylphosphine)(hexafluorophosphine) iridium(I) (Crabtree's catalyst, 0.495 g, 1.40 mmol) was added and the hydrogenation was allowed to continue overnight. The catalyst was filtered off and the crude product was purified by chromatography on silica gel (eluent: An increasing amount of ethyl acetate (0-20%) in heptane) to produce 4-[2-(4-chloro-phenylsulfanyl)-phenyl]-piperidine-1-carboxylic acid tert-butyl ester (5.37 g). This material was dissolved in methanol (70 mL) and hydrogen chloride in diethyl ether (2M, 67 mL, 133 mmol) was added and the reaction mixture was stirred overnight. The solvent was evaporated off, and aqueous sodium hydroxide (2M, 200 mL), and ethyl acetate (400 mL) were added. The phases were separated, and the aqueous phase was extracted with ethyl acetate (400 mL). The combined organic phases were washed with saturated aqueous sodium chloride (300 mL), dried over magnesium sulfate, and the solvent was evaporated off. The residue was purified by chromatography on silica gel (eluent: An increasing amount of ethanol (0-25%) in ethyl acetate containing 5% triethyl-amine) to produce 4-[2-(4-chloro-phenylsulfanyl)-phenyl]-piperidine (1.63 g). This material was dissolved in THF at 50° C. and a solution of oxalic acid (0.48 g) in THF was slowly added. 4-[2-(4-chloro-phenylsulfanyl)-phenyl]-piperidine oxalic acid salt was collected as a white solid. LC/MS (m/z) 304.0 (MH+); RT=2.29; purity (UV, ELSD): 96%, 96%; yield: 1.86 g (15%).

reactant | hydrochloric acid | 150 mL | Cl | ClH
reactant | 1-tert-butoxycarbonyl-4-[2-(4-chloro-phenylsulfanyl)-phenyl]-piperidine-4-ol | 28.9 mmol, 12.13 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)C1=C(C=CC=C1)SC1=CC=C(C=C1)Cl | C22H26ClNO3S
reactant | sodium hydroxide | 250 mL | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 31.9 mmol, 6.96 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetic acid | 450 mL | C(C)(=O)O | C2H4O2
solvent | triethyl amine | 5 mL | C(C)N(CC)CC | C6H15N
product | 4-[2-(4-chloro-phenylsulfanyl)-phenyl]-piperidine-1-carboxylic acid tert-butyl ester | 5.63 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=C(C=CC=C1)SC1=CC=C(C=C1)Cl | C22H26ClNO2S
